**************************************************************
*  Electronic circuit simulation file generated by gSpiceUI  *
*                Version 1.0.00 (23/09/2011)                 *
**************************************************************

* Schematic : /home/z80/projects/voltamper.git/electrics/modelling/opamp/opamp.sch

* Component Definitions
C101 0 Vc 10p
R101 0 Vout 1k
R102 Vc Vout 1k
V101 0 1 DC 12V
V102 2 0 DC 12V
* Signal source (V123 Vin 0 dc 5V ac 1V)
V123 Vin 0 AC 1.65
XU100 Vin 0 2 1 Vout AD825

* Sub-Circuit Definitions
.SUBCKT AD825    1 2 99 50 30
*
* INPUT STAGE & POLE AT 245 MHZ
*
R3   5  50   1084.2
R4   6  50   1084.2
C2   5   6   0.3E-12
I1   99  4   1.0E-3
J1   5   2   4   JX
J2   6   3   4   JX
Cin  1   0   3E-12
Ios  1   2   15p
Vos  1   3   1mV
*
EREF1 98 97  99 0 0.5
EREF2 97  0  50 0 0.5
*
* GAIN STAGE & POLE AT 1.92 KHZ -- GAIN REDUCED SLIGHTLY TO MATCH SLEW RATE
*
R5   9  98   6.9E6
C3   9  98   4.5p
G1   98  9   5  6  4.9E-4
V2   99  8   6.1
V3   10 50   6.05
D1   9   8   DX
D2   10  9   DX
*
* POLE AT 200 MHZ -- GAIN ADDED TO MAKE UP FOR REDUCED GAIN IN PREVIOUS STAGE
*
R9   23 98   1E6
C8   23 98   0.8E-15
G5   98 23   9 98 1.86E-6
*
* OUTPUT STAGE
*
R15  29 40   16
R16  29 41   16
L1   29 31   6E-12
V6   31 30   0
G7   29 40   99 23  6.25E-2
G8   41 29   23 50  6.25E-2
V4   25 29   1.4
V5   29 26   1.4
D3   23 25   DX
D4   26 23   DX
Vt1  99 40   0
Vt2  41 50   0
*
*SUPPLY CURRENT CORRECTION
*
ISY  99 50 5.5m

Fo1   98 110 V6 1
Do1  110 111 dx
Do2  112 110 dx
Vi1  111  98 0
Vi2   98 112 0

Fsy1   0 99 Vt1  1
Fsy2  99  0 Vi1  1
Fsy3  50  0 Vt2 1
Fsy4   0 50 Vi2 1
*
* MODELS USED
*
.MODEL JX PJF(BETA=4.25E-4  VTO=-2.000  IS=5E-12)
.MODEL DX   D(IS=1E-15)
.ENDS

* NG-Spice Simulation Commands
.OPTIONS NOPAGE NUMDGT=6 UNITS=Degrees WIDTH=72 VNTOL=0.00m
.PRINT AC VDB(Vout) VP(Vout)
.AC DEC 10 10.00K 50.00Meg

.END

